US06348474B1
5-Bromo-2-methylbenzo[b]furan
(5-Bromo-2-methoxyphenyl)acetone (6.6 g, 28.6 mmol) was dissolved in methylene chloride (50 ml) and cooled to −70° C. Thereto was dropwise added a 1 M solution (28.6 ml, 28.6 mmol) of boron tribromide in methylene chloride over 15 min. After the dropwise addition, the mixture was heated to room temperature and stirred for 1.5 hr. Then, the reaction mixture was ice-cooled and water (50 ml) was added. The insoluble matter was filtered off and the filtrate was partitioned. The aqueous layer was extracted with methylene chloride. The organic layers were combined, and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1) to give the objective compound (3.45 g, 57%) as a colorless liquid.

reactant | (5-Bromo-2-methoxyphenyl)acetone | 28.6 mmol, 6.6 g | BrC=1C=CC(=C(C1)CC(C)=O)OC | C10H11BrO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-methylbenzo[b]furan | 3.45 g, 57% | BrC1=CC2=C(OC(=C2)C)C=C1 | C9H7BrO
